US04153698
34 N Sulphuric acid (d=1.83; 36.8 cc) is added, over a period of a few minutes, to a suspension of (RS)-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline (106 g) in water (226 cc). The temperature rises to 60° C. and the solid goes into solution. The mixture is heated at 100°-110° C. whilst water is distilled off, and then at 160° C. whilst concentrating under reduced pressure (20 mm Hg). The concentration process is concluded under a pressure of 1mm Hg. The residue crystallises on cooling. Crude (RS)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline (151 g) is thus obtained in the form of pale yellow crystals.

reactant | Sulphuric acid | 34 N, 36.8 cc | S(O)(O)(=O)=O | H2O4S
reactant | (RS)-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline | 106 g | OCC1NCC2=CC=CC=C2C1 | C10H13NO
solvent | water | 226 cc | O | H2O
product | (RS)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline | 151 g | OS(=O)(=O)OCC1NCC2=CC=CC=C2C1 | C10H13NO4S
